US07601856B2
Following the procedure of Example 30, triethylamine (0.43 mL, 3.1 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.31 g, 1.6 mmol), N-hydroxybenzotriazole (0.22 g, 1.6 mmol), N-Boc-L-phenylalanine (0.36 g, 1.4 mmol), and 7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-ylamine (0.25 g, 1.2 mmol) provided tert-butyl [(1S)-1-benzyl-2-oxo-2-(7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylamino)ethyl]carbamate (0.21 g). MS (ESI) m/z 449 ([M+H]+); MS (ESI) m/z 447.3 ([M−H]−).

reactant | triethylamine | 3.1 mmol, 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.6 mmol, 0.31 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-hydroxybenzotriazole | 1.6 mmol, 0.22 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-Boc-L-phenylalanine | 1.4 mmol, 0.36 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-ylamine | 1.2 mmol, 0.25 g | C1=C(C=CC=2OC3=C(C21)CCCCC3)N | C13H15NO
product | tert-butyl [(1S)-1-benzyl-2-oxo-2-(7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylamino)ethyl]carbamate | 0.21 g | C(C1=CC=CC=C1)[C@@H](C(NC1=CC2=C(OC3=C2CCCCC3)C=C1)=O)NC(OC(C)(C)C)=O | C27H32N2O4
